US07297795B2
To a suspension of 2-cyano-N-(2,4-dichloro-5-methoxyphenyl)acetamide (6.1 g, 23.5 mmol) in 500 mL of isopropanol was added 5-amino-2-bromoanisole (5.0 g, 24.8 mmol). This mixture was heated to reflux to give a clear yellow solution. To this solution, triethylorthoformate (10.6 mL, 63.5 mmol) was added dropwise and the reaction mixture was heated at reflux for 5 hours. An additional 10.6 mL of triethylorthoformate was added and the mixture was heated at reflux overnight. The mixture was allowed to cool to room temperature. The solid was collected by filtration, washed with isopropanol and ethyl acetate, and then dried overnight at ˜40° C. under reduced pressure to give 8.1 g (73%) of 4-bromo-3-methoxyanilino-N-(2,4-dichloro-5-methoxyphenyl)-2-cyano-2-propenamide as a yellow solid, mp >250° C.; MS (ES) m/z470.0, 472.0 (M+H)+

reactant | 2-cyano-N-(2,4-dichloro-5-methoxyphenyl)acetamide | 23.5 mmol, 6.1 g | C(#N)CC(=O)NC1=C(C=C(C(=C1)OC)Cl)Cl | C10H8Cl2N2O2
reactant | 5-amino-2-bromoanisole | 24.8 mmol, 5.0 g | NC=1C=CC(=C(C1)OC)Br | C7H8BrNO
reactant | triethylorthoformate | 63.5 mmol, 10.6 mL | C(C)OC(OCC)OCC | C7H16O3
reactant | triethylorthoformate | 10.6 mL | C(C)OC(OCC)OCC | C7H16O3
solvent | isopropanol | 500 mL | C(C)(C)O | C3H8O
product | 4-bromo-3-methoxyanilino-N-(2,4-dichloro-5-methoxyphenyl)-2-cyano-2-propenamide | 8.1 g, 73% | BrC1=C(C=C(NC=C(C(=O)NC2=C(C=C(C(=C2)OC)Cl)Cl)C#N)C=C1)OC | C18H14BrCl2N3O3
